US06214872B1
To a solution of 1{(2-carboxyethyl)-[4-(4-fluorophenoxy)benzenesulfonyl]amino}cyclopentanecarboxylic acid benzyl ester (147 grams) in N,N-dimethyl formamide (3 L) at room temperature was added potassium carbonate (150 grams, 1.08 mole) and ethyl iodide (32.4 mL, 0.405 mole). The mixture was stirred for 16 hours at room temperature. After filtration, most of the solvent was removed under vacuum. The residue was taken up in water and acidified using 6N aqueous hydrogen chloride solution. The resulting mixture was extracted with diethyl ether. The organic extract was washed with water and brine, dried over magnesium sulfate, and concentrated to yield 1{(2-ethoxycarbonylethyl)-[4-(4-fluorophenoxy)benzenesulfonyl]amino}cyclopentane carboxylic acid benzyl ester as a yellow semi-solid (149.1 grams, 96%).

reactant | 1{(2-carboxyethyl)-[4-(4-fluorophenoxy)benzenesulfonyl]amino}cyclopentanecarboxylic acid benzyl ester | 147 grams | C(C1=CC=CC=C1)OC(=O)C1(CCCC1)N(S(=O)(=O)C1=CC=C(C=C1)OC1=CC=C(C=C1)F)CCC(=O)O | C28H28FNO7S
reactant | potassium carbonate | 1.08 mole, 150 grams | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl iodide | 0.405 mole, 32.4 mL | C(C)I | C2H5I
solvent | N,N-dimethyl formamide | 3 L | CN(C=O)C | C3H7NO
product | 1{(2-ethoxycarbonylethyl)-[4-(4-fluorophenoxy)benzenesulfonyl]amino}cyclopentane carboxylic acid benzyl ester | 149.1 grams, 96% | C(C1=CC=CC=C1)OC(=O)C1(CCCC1)N(S(=O)(=O)C1=CC=C(C=C1)OC1=CC=C(C=C1)F)CCC(=O)OCC | C30H32FNO7S
